US07939533B2
a) (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.20 g (0.38 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 0.11 g (1.1 mmol) (R)-2-methylpiperazine and 0.10 g (0.72 mmol) potassium carbonate in 0.3 ml dimethyl sulfoxide was heated at 180° C. under microwave irradiation in a sealed tube for 30 min. After cooling to room temperature the reaction mixture was diluted with a 0.3 M aqueous solution of sodium hydroxide and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated. Flash column chromatography gave 0.12 g (51%) of the title compound as an off-white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.38 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | (R)-2-methylpiperazine | 1.1 mmol, 0.11 g | C[C@H]1NCCNC1 | C5H12N2
reactant | potassium carbonate | 0.72 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 0.3 ml | CS(=O)C | C2H6OS
solvent | sodium hydroxide | [OH-].[Na+]
product | (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.12 g, 51% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H](NCC1)C)(C)C)(F)F | C30H31F7N4O
